US08198453B2
DMF (350 mL) was added to a round bottom flask containing NaH (60% w/w, 15 g, 0.376 mmol) and a magnetic stir bar. The suspension was cooled to 5-10° C. in an ice bath and stirred for 5 min. A solution of (R)-2-(3-chloropropyl)pent-4-en-1-ol (30.6 g, 188 mmol) in DMF (350 mL) was added via addition funnel over 25 min. Caution: Gas evolution and exotherm. The resulting creamy suspension was stirred for 30 min. The reaction was warmed to room temperature and the resulting beige suspension was stirred for 2 h, at which time it was judged complete by TLC. The reaction mixture was cooled to 0° C. and quenched by addition of H2O (250 mL) and HCl (3N, 250 mL). The phases were separated and the aqueous phase was extracted with petroleum ether (4×250 mL). The combined with organic layers were washed with H2O, brine, dried over MgSO4, filtered, and concentrated under reduced pressure to furnish the crude product as a yellow oil. The crude material was purified by flash chromatography (ISCO; 120 g column; Hexane to 30% EtOAc/Hexane) to provide (R)-3-allyl-tetrahydro-2H-pyran as a clear oil (19.8 g, 157 mmol, 83%); 1H NMR (400 MHz. CDCl3) δ 5.72-5.82 (m, 1H), 5.00-5.06 (m, 2H), 3.86-3.91 (m, 2H), 3.37 (m, 1H), 3.08 (t, J=12 Hz, 1H), 1.85-1.98 (m, 3H), 1.59-1.69 (m, 3H), 1.15-1.21 (m, 1H).

reactant | NaH | 0.376 mmol, 15 g | [H-].[Na+]
reactant | (R)-2-(3-chloropropyl)pent-4-en-1-ol | 188 mmol, 30.6 g | ClCCC[C@@H](CO)CC=C | C8H15ClO
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | (R)-3-allyl-tetrahydro-2H-pyran | 157 mmol, 19.8 g, 83% | C(C=C)[C@@H]1COCCC1 | C8H14O
